US04038408
Oxidation of 5-methyl-4-(2-aminoethylthio)methylimidazole with one equivalent of sodium metaperiodate yields 5-methyl-4-(2-aminoethylsulphinyl)methylimidazole and reaction of this compound with carbon disulphide gives N-[2-((5-methyl-4-imidazolyl)methylsulphinyl)ethyl]dithiocarbamic acid which, on treatment with methyl iodide may be converted into S-methyl-N-[2-((5-methyl-4-imidazolyl)methylsulphinyl)-ethyl]dithiocarbamate hydriodide.

reactant | 5-methyl-4-(2-aminoethylsulphinyl)methylimidazole | CC1=C(N=CN1)CS(=O)CCN | C7H13N3OS
reactant | carbon disulphide | C(=S)=S | CS2
product | N-[2-((5-methyl-4-imidazolyl)methylsulphinyl)ethyl]dithiocarbamic acid | CC1=C(N=CN1)CS(=O)CCNC(S)=S | C8H13N3OS3
